US07592357B2
Step 3. 3-Formylbenzenesulfonamide
A solution of 3-(hydroxymethyl)benzenesulfonamide (307 mg, 1.64 mmol) in acetone (16 mL) was added to a round bottom flask containing MnO2 (1.43 g, 16.4 mmol). The mixture was stirred for 50 hours until the starting material was consumed, then filtered though a pad of celite. The filtrate was evaporated to afford the product (232 mg, 76%) as a white solid. MS (ES+) m/z 186 [M+H]+.

reactant | 3-(hydroxymethyl)benzenesulfonamide | 1.64 mmol, 307 mg | OCC=1C=C(C=CC1)S(=O)(=O)N | C7H9NO3S
solvent | acetone | 16 mL | CC(=O)C | C3H6O
catalyst | MnO2 | 16.4 mmol, 1.43 g | O=[Mn]=O
product | 3-Formylbenzenesulfonamide | 232 mg, 76% | C(=O)C=1C=C(C=CC1)S(=O)(=O)N | C7H7NO3S
